US05587504
Synthesis of 4,4-dimethyl-2-(4'-methanesulfonyloxymethylbiphenyl-2-yl)oxazoline
2.0 g (7.1 mmol) of 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline and 1.43 g (14.1 mmol) of triethylamine were dissolved in methylene chloride (20 ml). A solution of 0.98 g (8.6 mmol) of methanesulfonyl chloride in methylene chloride (10 ml) was dropwise added thereto under cooling with salt-ice. After stirring for 3 hours as such, the reaction liquid was poured into water, followed by the extraction with methylene chloride. After washing with water and drying, vacuum concentration was conducted. 2.53 g of the title compound was obtained as an oil (yield 99%).

reactant | 4,4-dimethyl-2-(4'-hydroxymethylbiphenyl-2-yl)oxazoline | 7.1 mmol, 2.0 g | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)CO)C | C18H19NO2
reactant | triethylamine | 14.1 mmol, 1.43 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8.6 mmol, 0.98 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4,4-dimethyl-2-(4'-methanesulfonyloxymethylbiphenyl-2-yl)oxazoline | 2.53 g | CC1(N=C(OC1)C1=C(C=CC=C1)C1=CC=C(C=C1)COS(=O)(=O)C)C | C19H21NO4S
